US04725608
To a solution of N-amino-1,2,3,6-tetrahydropyridine hydrochloride (1.346 g) and triethylamine (1.012 g) in dry methylene chloride (40 ml) was added a solution of 3-fluorophenyl isocyanate (1.37 g) in dry methylene chloride under ice-bath cooling. After stirring for one hour, the reaction mixture was evaporated to dryness. The residue was extracted with ethyl acetate (100 ml). The extract was washed with water, evaporated to dryness and recystallized from ethyl acetate to give N-[[(3-fluorophenyl)carbamoyl]amino]-1,2,3,6-tetrahydropyridine (1.43 g). mp: 136.5°-138.5° C.

reactant | N-amino-1,2,3,6-tetrahydropyridine hydrochloride | 1.346 g | Cl.NN1CCC=CC1
reactant | triethylamine | 1.012 g | C(C)N(CC)CC | C6H15N
reactant | 3-fluorophenyl isocyanate | 1.37 g | FC=1C=C(C=CC1)N=C=O | C7H4FNO
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | N-[[(3-fluorophenyl)carbamoyl]amino]-1,2,3,6-tetrahydropyridine | 1.43 g | FC=1C=C(C=CC1)NC(=O)NN1CCC=CC1 | C12H14FN3O
